US08729263B2
Step 1: 7-(Benzyloxy)-1-chloro-6-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)naphthalen-2-ol
To a reaction mixture of 7-(benzyloxy)-6-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)naphthalen-2-ol (100 mg, 0.201 mmol) in DMF (2 mL) was added N-chlorosuccinimide (32.3 mg, 0.242 mmol) at room temperature. The reaction mixture was stirred overnight then loaded onto an SCX column, washed with MeOH, and eluted with 2 M NH3 in MeOH. The product-containing fractions were concentrated and purified via silica gel flash column chromatography to give the title compound as a light brown solid product (25 mg, 23% yield). MS (M+1)=531.6.

reactant | 7-(benzyloxy)-6-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)naphthalen-2-ol | 0.201 mmol, 100 mg | C(C1=CC=CC=C1)OC1=C(C=C2C=CC(=CC2=C1)O)C=1N=NC(=CC1)N(C1CC(NC(C1)(C)C)(C)C)C | C31H36N4O2
reactant | N-chlorosuccinimide | 0.242 mmol, 32.3 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 7-(Benzyloxy)-1-chloro-6-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)naphthalen-2-ol | C(C1=CC=CC=C1)OC1=C(C=C2C=CC(=C(C2=C1)Cl)O)C=1N=NC(=CC1)N(C1CC(NC(C1)(C)C)(C)C)C | C31H35ClN4O2
